US07902252B2
To a solution of (z)-methyl 5-(3-tert-butoxy-3-oxoprop-1-enyl)-1H-pyrrole-2-carboxylate or (E)-methyl 5-(3-tert-butoxy-3-oxoprop-1-enyl)-1H-pyrrole-2-carboxylate (13.6 g, 54.1 mmol, 2 equal batches) in EtOAc (200 mL) under nitrogen was added 10% Pd/C. The flask was flushed with hydrogen three times before allowing the reaction to stir under hydrogen for about 18 h. The catalyst was filtered off using Celite and the filtrate was concentrated to give 27.4 g methyl 5-(3-tert-butoxy-3-oxopropyl)-1H-pyrrole-2-carboxylate as a white solid (100%) for each stereoisomer. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.46 (s, 9H), 2.54-2.59 (m, 2H), 2.90 (t, J=6.83 Hz, 2H), 3.83 (s, 3H), 5.97 (dd, J=3.49, 2.86 Hz, 1H), 6.81 (dd, J=3.61, 2.59 Hz, 1H), 9.30 (br s, 1H); LCMS-MS (ESI+) 197.86 (M-isobutylene).

reactant | (z)-methyl 5-(3-tert-butoxy-3-oxoprop-1-enyl)-1H-pyrrole-2-carboxylate | C(C)(C)(C)OC(\C=C/C1=CC=C(N1)C(=O)OC)=O | C13H17NO4
reactant | (E)-methyl 5-(3-tert-butoxy-3-oxoprop-1-enyl)-1H-pyrrole-2-carboxylate | 54.1 mmol, 13.6 g | C(C)(C)(C)OC(/C=C/C1=CC=C(N1)C(=O)OC)=O | C13H17NO4
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | methyl 5-(3-tert-butoxy-3-oxopropyl)-1H-pyrrole-2-carboxylate | 27.4 g, 100% | C(C)(C)(C)OC(CCC1=CC=C(N1)C(=O)OC)=O | C13H19NO4
